### PR TITLE
feat(ClassicalMechanics): prove uniqueness of the damped oscillator solution

### PR DESCRIPTION
**Pull request by giuseppesorge**
This PR completes the **damped harmonic oscillator** API (#905) by proving **uniqueness** of the solution: the selected trajectory is the unique smooth solution of the damped equation of motion `m ẍ + γ ẋ + k x = 0` with the given initial conditions.

Unlike the undamped oscillator — whose `trajectories_unique` follows from energy *conservation* — the damped oscillator's energy *dissipates*, so uniqueness cannot be read off a conserved positive-definite energy. Instead we reduce the second-order equation to the first-order linear system on phase space, `(x, ẋ)' = (ẋ, (1/m)(-k x - γ ẋ))`, and invoke mathlib's global ODE-uniqueness theorem `ODE_solution_unique_univ` (the RHS is a continuous linear map, hence Lipschitz).

### `Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean`
- `equationOfMotion_unique` — any two smooth solutions of the equation of motion with the same initial position and velocity are equal;
- `trajectories_unique` — the selected `trajectory` is the unique smooth solution with the given initial conditions;
- supporting private helpers: the phase-space vector field (`phaseVectorField`, a continuous linear map), the `Time ≅ ℝ` derivative bridge, the phase-curve ODE, and the regime-split initial-data facts.

Also adds `import Mathlib.Analysis.ODE.ExistUnique`, removes the now-completed TODO, and marks the uniqueness requirement `done` in the API-map.

Both `equationOfMotion_unique` and `trajectories_unique` reduce to `[propext, Classical.choice, Quot.sound]`.

This is the last open requirement of #905.

### CODE REVIEW

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean [hunk 1]
```diff
@@ -1,12 +1,13 @@
 /-
 Copyright (c) 2026 Florian Wiesner. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Florian Wiesner
+Authors: Florian Wiesner, Giuseppe Sorge
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: Authors should be alphabetical by last name

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean [hunk 2]
```diff
@@ -419,24 +419,162 @@ lemma trajectory_equationOfMotion_of_overdamped (IC : InitialConditions)
...
+second-order equation of motion `m ẍ + γ ẋ + k x = 0` to the first-order linear system
+`(x, ẋ)' = (ẋ, (1/m)(-k x - γ ẋ))` on the phase space and invoke the global
+ODE-uniqueness theorem `ODE_solution_unique_univ` (the right-hand side is a continuous
+linear map, hence Lipschitz).
 
 -/
 
+/-- Solving the equation of motion for the acceleration: along a solution the second derivative
+is `-(k/m) x - (γ/m) ẋ`. -/
+private lemma acceleration_eq_of_equationOfMotion (z : Time → EuclideanSpace ℝ (Fin 1))
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: Doesn't need to be private, and can be near where EquationOfMotion is defined.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean [hunk 3]
```diff
@@ -419,24 +419,162 @@ lemma trajectory_equationOfMotion_of_overdamped (IC : InitialConditions)
...
+  change (1 : ℝ) = (1 : Time).val
+  rw [Time.one_val]
+
+/-- Bridge from the time derivative to `HasDerivAt` for a curve reparametrised through the
+canonical `ℝ ≃L[ℝ] Time` equivalence. -/
+private lemma hasDerivAt_comp_toRealCLE_symm (w : Time → EuclideanSpace ℝ (Fin 1)) (τ : ℝ)
+    (hw : DifferentiableAt ℝ w (Time.toRealCLE.symm τ)) :
+    HasDerivAt (fun τ : ℝ => w (Time.toRealCLE.symm τ))
+      (∂ₜ w (Time.toRealCLE.symm τ)) τ := by
+  have hval : ((fderiv ℝ w (Time.toRealCLE.symm τ)).comp
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: This may just be a single lemma in Mathlib

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean [hunk 4]
```diff
@@ -419,24 +419,162 @@ lemma trajectory_equationOfMotion_of_overdamped (IC : InitialConditions)
...
+  rcases S.isUnderdamped_or_isCriticallyDamped_or_isOverdamped with hS | hS | hS
+  · rw [S.trajectory_eq_of_underdamped IC hS]
+    simp [underdampedBase]
+  · rw [S.trajectory_eq_of_criticallyDamped IC hS]
+    simp [criticallyDampedBase]
+  · rw [S.trajectory_eq_of_overdamped IC hS]
+    simp [overdampedBase]
+
+/-- The selected trajectory has initial velocity `IC.v₀`. -/
+private lemma trajectory_velocity_at_zero (IC : InitialConditions) :
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: Need not be private, and should be near definition of `trajectory` - same with the above result.

**Comment by jstoobysmith** [comment]
awaiting-author

**Comment by giuseppesorge** [comment]
Thanks! All four addressed: authors reordered alphabetically by last name; acceleration_eq_of_equationOfMotion is now public and lives in Basic.lean next to EquationOfMotion; the Time↔ℝ bridge is golfed to a direct application of mathlib's HasFDerivAt.comp_hasDerivAt_of_eq + ContinuousLinearMap.hasDerivAt (kept as a tiny private helper since it still packages the Time-specific ∂ₜ, and Time is a structure rather than ℝ); trajectory_contDiff and trajectory_apply_zero are public next to the trajectory definition, and trajectory_velocity_at_zero is public at the end of B.4 — it needs the base-velocity derivative lemmas proved there, so that is the earliest it can appear.

**Comment by giuseppesorge** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Ok, looks good to me. Approved.
